US08859535B2
(S)-1-(4-Chloro-phenyl)-2-{4-[1-hydroxy-1-(2-oxa-bicyclo[2.2.2]oct-4-yl)-ethyl]-phenyl}-7-isopropoxy-6-methoxy-1,4-dihydro-2H-isoquinolin-3-one
A dry microwave vial was charged with K3PO4 (255 mg, 1.203 mmol), (S)-1-(4-chlorophenyl)-7-isopropoxy-6-methoxy-1,2-dihydroisoquinolin-3(4H)-one (208 mg, 0.601 mmol), 1-(4-bromo-phenyl)-1-(2-oxa-bicyclo[2.2.2]oct-4-yl)ethanol (225 mg, 0.722 mmol) and dioxane (1.9 ml). The reaction mixture was degassed with argon, then trans-1,2-diaminocyclohexane (69 mg, 0.072 ml, 0.601 mmol) and copper(I)iodide (115 mg, 0.601 mmol) were added. The vial was sealed and heated for 17 hrs to 97° C. in an oil bath. The reaction mixture was diluted with dioxane, filtered through a pad of hyflo, the residue was washed with dioxane and the filtrate concentrated to dryness. The crude product was purified by silica gel column chromatography (eluting with a gradient of DCM:DCM/EtOH (9/1) 95:05 to 50:50) yielding the title example (223 mg, 0.387 mmol, 64%) as a beige resin.

reactant | K3PO4 | 1.203 mmol, 255 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | (S)-1-(4-chlorophenyl)-7-isopropoxy-6-methoxy-1,2-dihydroisoquinolin-3(4H)-one | 0.601 mmol, 208 mg | ClC1=CC=C(C=C1)[C@@H]1NC(CC2=CC(=C(C=C12)OC(C)C)OC)=O | C19H20ClNO3
reactant | 1-(4-bromo-phenyl)-1-(2-oxa-bicyclo[2.2.2]oct-4-yl)ethanol | 0.722 mmol, 225 mg | BrC1=CC=C(C=C1)C(C)(O)C12COC(CC1)CC2 | C15H19BrO2
reactant | trans-1,2-diaminocyclohexane | 0.601 mmol, 0.072 ml, 69 mg | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | copper(I)iodide | 0.601 mmol, 115 mg | [Cu]I
solvent | dioxane | 1.9 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(4-Chloro-phenyl)-2-{4-[1-hydroxy-1-(2-oxa-bicyclo[2.2.2]oct-4-yl)-ethyl]-phenyl}-7-isopropoxy-6-methoxy-1,4-dihydro-2H-isoquinolin-3-one | ClC1=CC=C(C=C1)[C@@H]1N(C(CC2=CC(=C(C=C12)OC(C)C)OC)=O)C1=CC=C(C=C1)C(C)(C12COC(CC1)CC2)O | C34H38ClNO5
